US04130646
A. 6,7,8,9-Tetrahydro-6-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-5H-benzocyclohepten-5-one, hydrochloride (1:2)
A mixture of benzosuberone (4.5 g), N-(2-methoxyphenyl)piperazine, dihydrochloride (7.5 g), 37% formalin (2.5 g), and absolute ethanol (30 ml) is heated on a steam bath with stirring for 30 minutes. The solution is allowed to stand overnight at room temperature. The reaction mixture is then concentrated in vacuo, basified with concentrated ammonium hydroxide, and extracted with ether. Concentration of the dried ether solution gives a crude product that is chromatographed on a silica gel column using ethyl acetate. The ethyl acetate solution is concentrated and the residue treated with ethereal hydrogen chloride to provide 3.9 g (32%) of a crystalline solid. Crystallization from acetonitrile/ether gives 2.5 g of pure hydrochloride salt, melting point 164°-166° C.

reactant | benzosuberone | 4.5 g | C1CCC(=O)C2=CC=CC=C2C1 | C11H12O
reactant | N-(2-methoxyphenyl)piperazine, dihydrochloride | 7.5 g | Cl.Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | formalin | 2.5 g | C=O | CH2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6,7,8,9-Tetrahydro-6-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-5H-benzocyclohepten-5-one, hydrochloride | 3.9 g, 32% | Cl.COC1=C(C=CC=C1)N1CCN(CC1)CC1C(C2=C(CCC1)C=CC=C2)=O | InChI=1S/C23H28N2O2.ClH/c1-27-22-12-5-4-11-21(22)25-15-13-24(14-16-25)17-19-9-6-8-18-7-2-3-10-20(18)23(19)26;/h2-5,7,10-12,19H,6,8-9,13-17H2,1H3;1H
